US04057636
By following the procedure of Example 1, but substituting N-neopentyl-N'-3-pyridylcarbodiimide for the N-tert-butyl-N'-3-pyridylcarbodiimide, the N"-cyano-N-neopentyl-N'-3-pyridylguanidine was obtained with a melting point of 214.0°-215.0° C.

reactant | N-neopentyl-N'-3-pyridylcarbodiimide | C(C(C)(C)C)N=C=NC=1C=NC=CC1 | C11H15N3
reactant | N-tert-butyl-N'-3-pyridylcarbodiimide | C(C)(C)(C)N=C=NC=1C=NC=CC1 | C10H13N3
product | N"-cyano-N-neopentyl-N'-3-pyridylguanidine | C(#N)N=C(NCC(C)(C)C)NC=1C=NC=CC1 | C12H17N5
